US05436247
To a mixture of 2-amino-4,5,3',4'-tetramethoxybenzophenone, ethyl acetoacetate and acetic acid, concentrated sulfuric acid was added, followed by the same treatment as in Reference Example 1, to yield 6,7-dimethoxy-4-(3,4-dimethoxyphenyl)-2-methylquinoline-3-carboxylic acid ethyl ester (83%), which was then recrystallized from ethanol to yield a colorless prismatic crystal having a melting point of 147° to 148° C.

reactant | 2-amino-4,5,3',4'-tetramethoxybenzophenone | NC1=C(C(=O)C2=CC(=C(C=C2)OC)OC)C=C(C(=C1)OC)OC | C17H19NO5
reactant | ethyl acetoacetate | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 6,7-dimethoxy-4-(3,4-dimethoxyphenyl)-2-methylquinoline-3-carboxylic acid ethyl ester | 83% | C(C)OC(=O)C=1C(=NC2=CC(=C(C=C2C1C1=CC(=C(C=C1)OC)OC)OC)OC)C | C23H25NO6
